US04199587
3,7,11,15,19,23,27,31,35,-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl nicotinate
10 Grams of solanesol were dissolved in 50 ml of pyridine and the solution was added with a solution of 4.5 g of nicotinic acid chloride in pyridine dropwise over 30 minutes. After completion of the addition, the mixture was stirred at room temperature for two hours to complete the reaction. The reaction product was diluted with n-hexane, washed with water and concentrated. The concentrate was purified by chromatography with 80 g of silica gel in n-hexane/ether solvent mixture as elution solvent to obtain a white yellow waxy final product.

reactant | solanesol | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | nicotinic acid chloride | 4.5 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | n-hexane | CCCCCC | C6H14
product | 3,7,11,15,19,23,27,31,35,-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl nicotinate | C(C1=CN=CC=C1)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C51H77NO2
